US04315939
100 g of 2-carboethoxy-3-hydroxy-4,5-dimethylpyrrole, 150 g of epibromohydrin and 152 g of dry potassium carbonate in 500 ml of acetone are refluxed for 16 hours. When it has cooled, the entire reaction mixture is poured into 3 liters of ice water, the batch is extracted with ether and the combined extracts are washed with 2 N sodium hydroxide solution and water and dried over sodium sulfate. The evaporation residue which remains after distilling off the ether and the excess epibromohydrin is extracted with heptane. 122 g of 1-(2-carboethoxy-4,5-dimethyl-pyrrol-3-oxy)-2,3-epoxypropane, of melting point 70°-71° C., are obtained.

reactant | 2-carboethoxy-3-hydroxy-4,5-dimethylpyrrole | 100 g | C(=O)(OCC)C=1NC(=C(C1O)C)C | C9H13NO3
reactant | epibromohydrin | 150 g | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 152 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-(2-carboethoxy-4,5-dimethyl-pyrrol-3-oxy)-2,3-epoxypropane | 122 g | C(=O)(OCC)C=1NC(=C(C1OCC1CO1)C)C | C12H17NO4
